US08895588B2
ethyl 1-(2-fluoropyridin-3-yl)-5-hydroxy-1H-pyrazole-3-carboxylate
To a solution of 2-fluoro-3-hydrazinopyridine (30.0 g) in ethanol (472 mL) were added sodium carbonate (65.2 g) and diethyl but-2-ynedioate (40.2 g). After refluxing for 18 hr, the mixture was cooled to room temperature, treated with 2 mol/L hydrochloric acid, and extracted twice with ethyl acetate. The extract was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was suspended in diethyl ether, and the obtained solid was collected by filtration and dried under reduced pressure to give the title compound as a yellow solid (yield 20.0 g, yield 34%).

reactant | 2-fluoro-3-hydrazinopyridine | 30.0 g | FC1=NC=CC=C1NN | C5H6FN3
reactant | sodium carbonate | 65.2 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | diethyl but-2-ynedioate | 40.2 g | C(C#CC(=O)OCC)(=O)OCC | C8H10O4
reactant | hydrochloric acid | 2 mol/L | Cl | ClH
solvent | ethanol | 472 mL | C(C)O | C2H6O
product | ethyl 1-(2-fluoropyridin-3-yl)-5-hydroxy-1H-pyrazole-3-carboxylate | yield 20.0 g, yield 34% | FC1=NC=CC=C1N1N=C(C=C1O)C(=O)OCC | C11H10FN3O3
